US04358593
6-methanesulfonyloxy- 2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
The acid chloride was formed from 2.0 g. of 4-(2-piperidinoethoxy)benzoic acid, hydrochloride, as described in Example 9, and was combined with 2 g. of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene in 50 ml. of dichloromethane. A 2.4 g. portion of trifluoromethanesulfonic acid was added, and the mixture was stirred overnight under reflux. The reaction mixture was then poured over ice and sodium bicarbonate solution, and the organic layer was dried over magnesium sulfate and filtered. The filtrate was evaporated under vacuum to a yellow foam, which was treated with excess 3% hydrogen chloride in anhydrous methanol. The mixture was evaporated to dryness under vacuum to obtain a white foam which was dissolved in 18 ml. of boiling methanol. The solution was cooled to obtain 3.1 g. of the desired product, m.p. 128°-130° C., which was identified by nmr analysis. δ1.50-2.00 (6H, m, N-(CH2CH2)2CH2); 2.57-3.75 (6H, m, NH(CH2CH2)2CH2 and OCH2CH2N); 3.36 (3H, s, CH3SO2); 3.46 (3H, s, CH3SO2); 4.45 (2H, broad t, J=6 Hz, OCH2CH2N); 6.97 (2H, d, J=9 Hz, aromatic o to OCH2 ); 7.25-7.80 (8H, m, aromatic); 8.25 (1H, d, J=2 Hz, aromatic, o to O and S); 10.70-11.00 (1H, broad s, NH). Infrared absorption in KBr for the ketone CO appears at 1640 cm.-1. Ultraviolet absorption maxima: λmax (ε) in ethanol: 273 nm. (sh 26,000), 290 (29,500).

reactant | 4-(2-piperidinoethoxy)benzoic acid, hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C16H14O6S3
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methanesulfonyloxy- 2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | InChI=1S/C30H31NO8S3.ClH/c1-41(33,34)38-24-12-8-22(9-13-24)30-28(26-15-14-25(20-27(26)40-30)39-42(2,35)36)29(32)21-6-10-23(11-7-21)37-19-18-31-16-4-3-5-17-31;/h6-15,20H,3-5,16-19H2,1-2H3;1H
